US04560693
8. 6,6,7-Trifluoro-6,7-dihydro-2-[(4-methoxy-3,5-dimethyl-2-pyridyl]methylthio]-1H-[1,4]-dioxino[2,3-f]benzimidazole
6.1 ml of 2M sodium hydroxide solution are added dropwise to a mixture of 1.6 g of 6,6,7-trifluoro-6,7-dihydro-1H-[1,4]-dioxino[2,3-f]benzimidazole-2-thiol and 1.4 g of 2-chloromethyl-4-methoxy-3,5-dimethylpyridine hydrochloride in 40 ml of ethanol at room temperature and the mixture is stirred at 40° C. for 5 h. The solvent is distilled off in vacuo, water is added, the mixture is extracted with methylene chloride, the organic solution is concentrated and the residue is recrystallized from ethanol and water. 1.9 g (77%) of the title compound of m.p. 138°-140° C. are obtained.

reactant | sodium hydroxide | 2M, 6.1 ml | [OH-].[Na+]
reactant | 6,6,7-trifluoro-6,7-dihydro-1H-[1,4]-dioxino[2,3-f]benzimidazole-2-thiol | 1.6 g | FC1(C(OC=2C(=CC3=C(NC(=N3)S)C2)O1)F)F | C9H5F3N2O2S
reactant | 2-chloromethyl-4-methoxy-3,5-dimethylpyridine hydrochloride | 1.4 g | Cl.ClCC1=NC=C(C(=C1C)OC)C
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6,6,7-Trifluoro-6,7-dihydro-2-[(4-methoxy-3,5-dimethyl-2-pyridyl]methylthio]-1H-[1,4]-dioxino[2,3-f]benzimidazole | 1.9 g, 77% | FC1(C(OC=2C(=CC3=C(NC(=N3)SCC3=NC=C(C(=C3C)OC)C)C2)O1)F)F | C18H16F3N3O3S
